US07618990B2
Methyl 4-[5-chloro-2-(4,4-dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzoate
Methyl 4-[2-(4,4-dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzoate, prepared in Example 129, and N-chlorosuccinimide are combined in dimethylformamide (5 mL). The mixture is stirred for 5 days and partitioned between water and ethyl acetate. The combined organic layers are dried over magnesium sulfate and concentrated onto silica gel. The residue is purified by silica gel Flash Chromatography to give the title compound. The melting point is anticipated to be 152-155° C.

reactant | Methyl 4-[2-(4,4-dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzoate | CC1(N(C(OC1)=O)C=1SC=C(N1)C1=CC=C(C(=O)OC)C=C1)C | C16H16N2O4S
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Methyl 4-[5-chloro-2-(4,4-dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzoate | ClC1=C(N=C(S1)N1C(OCC1(C)C)=O)C1=CC=C(C(=O)OC)C=C1 | C16H15ClN2O4S
